data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_42643_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]([N:3]([N:5]([H:8])[H:9])[H:7])=[O:6])([H:10])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4](=[N:3]/[N:5]([H:7])[H:9])[O:6][H:8])([H:10])[H:11],56.146817499992494
MR_516256_1,[C:1]([N:3]([C:4]([N:6]([H:9])[H:10])=[O:8])/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:7]/[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[C:5](/[C:2]([H:15])([H:16])[H:17])[N:7]([C:4]([N:6]([H:9])[H:10])=[O:8])[H:11])([H:12])([H:13])[H:14],44.14274250001668
MR_471971_0,[C:1]([C:2](/[C:5]([C:4]([H:21])([H:22])[H:23])=[C:7](\[N:6]([H:11])[H:12])[H:16])([H:14])[H:15])([C:3]([H:18])([H:19])[H:20])(/[C:8](=[N:9]/[H:13])[H:17])[H:10]>>[C:1]1([C:3]([H:18])([H:19])[H:20])([H:10])[C:2]([H:14])([H:15])[C:5](=[C:4]([H:21])[H:23])[C:7]([N:6]([H:11])[H:12])([H:16])[C:8]1([N:9]([H:13])[H:22])[H:17],49.56936250001277
MR_163222_1,[C:1]([C:2]([N:6]([H:14])[H:15])([O:7][O:8][H:10])[H:13])([C:3]([H:16])([H:17])[H:18])([N:5]([C:4]([H:19])([H:20])[H:21])[H:12])[O:9][H:11]>>[C:1]([C:2]([N:5]([C:4]([H:19])([H:20])[H:21])[H:12])([N:6]([H:14])[H:15])[H:13])([C:3]([H:16])([H:17])[H:18])([O:7][O:8][H:10])[O:9][H:11],55.75651249997918
MR_115758_0,[C:1](/[C:3](=[N:6]\[N:4]=[N:5]\[N:2]([H:7])[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:3]1([H:9])[N:5]([N:2]([H:7])[H:8])[N:4]=[N:6]1)([H:10])([H:11])[H:12],39.37123250000738
MR_191628_0,[C:1]1([N:3]([H:9])[H:10])([H:8])[C:2]([H:11])=[C:5]([H:14])[C:6]2([H:15])[C:4]([H:12])([H:13])[N:7]12>>[C:1]1([N:3]([H:9])[H:10])([H:8])[C:2]([H:11])([H:12])[C:5]([H:14])=[C:6]([H:15])[C:4]([H:13])=[N:7]1,58.19560499999184
MR_543138_0,[C:1]([C:2]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[O:8][H:9])([C:3]([H:14])([H:15])[H:16])([N:6]([H:11])[H:12])[N:7]([H:10])[H:13]>>[C:1]([C:2]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[N:6]([H:11])[H:12])([C:3]([H:14])([H:15])[H:16])([N:7]([H:10])[H:13])[O:8][H:9],66.77855000000889
MR_39837_0,[C:1]([N:4]([H:7])[H:8])([O:5][C:3]([C:2]([H:11])([H:12])[H:13])=[O:6])([H:9])[H:10]>>[C:1]([N:4]([H:7])[H:8])([O:6][C:3]([C:2]([H:11])([H:12])[H:13])=[O:5])([H:9])[H:10],32.21961499997917
MR_301640_0,[C:1]([N:2](/[C:3](=[N:5]/[H:7])[H:8])[O:4][H:6])([H:9])([H:10])[H:11]>>[C:1]([N:5](/[C:3](=[N:2]/[O:4][H:6])[H:8])[H:7])([H:9])([H:10])[H:11],67.92373750000678
MR_702365_0,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:3]([N:5]([H:9])[H:10])[O:7][C:6](=[O:8])[H:11])([H:12])([H:13])[H:17]>>[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])([C:3]([N:5]([H:9])[H:10])=[O:7])[C:6](=[O:8])[H:11])([H:12])([H:13])[H:17],34.32676000000953
MR_242578_0,[C:1](/[C:3](=[N:6]/[H:8])[H:12])(/[N:5]=[C:2](/[O:4][H:7])[H:9])([H:10])[H:11]>>[C:1]1([H:10])([H:11])/[C:3](=[N:6]/[H:8])[N:5]1[C:2]([O:4][H:7])([H:9])[H:12],64.92554250001461
MR_686847_1,[C:1](/[C:4](=[C:3](\[N:2]([N:7]=[O:8])[H:9])[N:5]([H:10])[H:11])[N:6]([H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C@@:4](/[C:3](=[N:2]/[H:9])[N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[N:7]=[O:8])([H:14])([H:15])[H:16],21.41908500003225
MR_341165_0,[C:1]1([H:12])([H:13])[N:3]([O:7][H:9])[C:5]([O:8][H:10])=[C:6]([C:2]([H:14])([H:15])[H:16])[N:4]1[H:11]>>[C:1]1([H:12])([H:13])[N:4]([H:11])[C@@:6]1([C:2]([H:14])([H:15])[H:16])/[C:5](=[N:3]/[O:7][H:9])[O:8][H:10],48.271692500007504
MR_178758_0,[C:1]([N:4]([C:5]([C:2]([H:16])([H:17])[H:18])[C:6]([C:3]([H:19])([H:20])[H:21])[N:7]([H:10])[H:11])[C:8](=[C:9]([H:22])[H:23])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:4]=[C:5](\[C:2]([H:16])([H:17])[H:18])[C@:6]([C:3]([H:19])([H:20])[H:21])([N:7]([H:10])[H:11])[C:8](=[C:9]([H:22])[H:23])[H:12])([H:13])([H:14])[H:15],64.7121925000539
MR_425288_1,[C@:1]([C:3]([H:15])([H:16])[H:17])(/[C:4]([C:2]([H:12])([H:13])[H:14])=[N:7]/[O:6][H:9])([C:5](=[O:8])[H:11])[H:10]>>[C:1](\[C:3]([H:15])([H:16])[H:17])(=[C:4](/[C:2]([H:12])([H:13])[H:14])[N:7]([C:5](=[O:8])[H:11])[O:6][H:9])[H:10],46.62889749998186
MR_492043_1,[C:1]([C:4]([C:2]([C:3]([H:15])([H:16])[H:17])([N:5]([H:13])[H:14])[H:12])=[O:8])([O:6][H:10])([O:7][H:9])[H:11]>>[C:1]1([O:7][H:9])([H:11])[C:4]([C:2]([C:3]([H:15])([H:16])[H:17])([N:5]([H:13])[H:14])[H:12])([O:6][H:10])[O:8]1,64.01190250000283
MR_171754_1,[C:1](/[C:6](=[N:7]/[C:5](=[C:2]([N:3]([H:8])[H:9])[N:4]([H:10])[H:11])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:6]1([H:13])[C:2]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[C:5]([H:12])=[N:7]1)([H:14])([H:15])[H:16],52.01222000001593
MR_33716_1,[C:1]([C:4]([C:5]([C:2]([H:16])([H:17])[H:18])[C:3]([H:19])([H:20])[H:21])/[C:7](=[C:8](/[N:6]([H:9])[H:10])[H:12])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C:4]1=[C:7]([H:11])[C@@:8]([N:6]([H:9])[H:10])([H:12])[C:5]1([C:2]([H:16])([H:17])[H:18])[C:3]([H:19])([H:20])[H:21])([H:13])([H:14])[H:15],36.86750749997955
MR_679315_2,[C:1]([N:3]([H:10])[H:11])(/[C:4](=[N:8]/[H:12])[H:13])(/[C:5](=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:15])[H:14])[O:7][H:9]>>[C:1]1([N:3]([H:10])[H:11])([O:7][H:9])[C:4]([N:8]([H:12])[H:18])([H:13])[C:5]1([C:6](=[C:2]([H:16])[H:17])[H:15])[H:14],33.48716499998915
